* C:\users\xenir\My Documents\ltspice\Transmit Switch Ensemble.asc
V2 N001 0 12 Rser=0
D1 N003 N004 D
M1 N001 N003 N006 N006 2N7002
R5 N001 N003 2.2k
R6 N006 0 33.2
R7 N004 N007 2.21k
R8 N007 0 22.1k
Q2 N007 N005 0 0 NPN
S1 N001 NC_01 N002 N008 MYSW
V1 N002 N008 PULSE(0 2 .5 .001 .001 1 2)
V3 N018 0 SINE(0 .08 14000000) Rser=50
L1 N009 N001 9µH
L2 N015 N012 2.25µH
L3 N026 N015 2.25µH
R1 N012 N015 220
R2 N015 N026 220
R4 N009 N014 2.21k
R9 N014 0 475
C1 N014 N017 100nF
R10 N020 0 56
XM2 N010 N012 P001 BS170
XM3 N021 N026 P002 BS170
R3 P001 0 2.2
R11 P002 0 2.2
L4 0 N024 6.25µH
L5 N016 N027 2.25µH
L6 N011 N016 2.25µH
R12 N024 0 50
V4 N016 0 15 Rser=0
C3 0 N015 100nF
C2 N022 N020 100nF
R13 N022 0 10
V5 N015 0 5 Rser=0
Q1 N009 N014 N020 0 2SC5706
R14 N011 N010 .01
R15 N027 N021 .01
R16 N001 N019 4.7k
R17 N019 0 1k
R18 N023 0 50
C4 N025 N023 100nF
R19 N025 0 50
Q3 N013 N019 N023 0 2N3904
C5 N019 N018 100nF
L7 N013 N001 200µH
L8 0 N017 20µH
.model D D
.lib C:\users\xenir\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\xenir\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\xenir\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .000110 .000109
.model MYSW SW(Ron=1 Roff=1Meg Vt=1 Vh=-0)
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.include bs170.txt
.lib 2SC5706-SPICE-D.LIB
K3 L7 L8 1
.backanno
.end
